US07915424B2
(b) 1-Ethynyl-3-trifluoromethoxybenzene
Add potassium carbonate (257 mg, 1.86 mmol) to a solution of trimethyl-(3-trifluoromethoxyphenylethynyl)-silane (960 mg, 3.72 mmol) in ethanol (15 mL) and stir for 16 h. Add a 10% aqueous solution of hydrochloric acid to neutralize the reaction mixture and then partition between water and hexanes. Separate the organic layer and concentrate with cooling to give the title compound (571.4 mg, 83%).

reactant | potassium carbonate | 1.86 mmol, 257 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl-(3-trifluoromethoxyphenylethynyl)-silane | 3.72 mmol, 960 mg | C[Si](C#CC1=CC(=CC=C1)OC(F)(F)F)(C)C | C12H13F3OSi
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-Ethynyl-3-trifluoromethoxybenzene | 571.4 mg, 83% | C(#C)C1=CC(=CC=C1)OC(F)(F)F | C9H5F3O
